US08222247B2
A solution of 3-(6-chloro-pyridin-3-yl)-2,2-dimethyl-3-phenyl-propionic acid (Preparation 4, 100 mg, 0.345 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDC) (132 mg, 0.69 mmol) and 1-hydroxy-7-benzotriazole (HOBt) (93 mg, 0.69 mmol), 1,3,4-thiadiazol-2-amine (103 mg, 1.04 mmol) and diisopropylethyl amine (0.21 ml, 1.21 mmol) in CH3CN (1 mL) was heated at 75° C. for 12 hours. The reaction mixture was filtered, concentrated and purified by silica gel flash chromatography using 50% ethyl acetate in hexanes to give 3-(6-chloro-pyridin-3-yl)-2,2-dimethyl-3-phenyl-N-[1,3,4]thiadiazol-2-yl-propionamide as a white solid. (102 mg, 79.3% yield).). 1H NMR (400 MHz, CDCl3): δ 1.31 (s, 3H), 1.32 (s, 3H), 4.57 (s, 1H), 7.15 (m, 1H), 7.20 (m, 2H), 7.28 (m, 3H), 7.85 (m, 1H), 8.26 (br s, 1H), 8.90 (s, 1H). LC/MS (m/z) 373.19 [(M+H)+]; HPLC Rt: 2.913 min.

reactant | 3-(6-chloro-pyridin-3-yl)-2,2-dimethyl-3-phenyl-propionic acid | 0.345 mmol, 100 mg | ClC1=CC=C(C=N1)C(C(C(=O)O)(C)C)C1=CC=CC=C1 | C16H16ClNO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.69 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1,3,4-thiadiazol-2-amine | 1.04 mmol, 103 mg | S1C(=NN=C1)N | C2H3N3S
reactant | diisopropylethyl amine | 1.21 mmol, 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 3-(6-chloro-pyridin-3-yl)-2,2-dimethyl-3-phenyl-N-[1,3,4]thiadiazol-2-yl-propionamide | 79.3% yield | ClC1=CC=C(C=N1)C(C(C(=O)NC=1SC=NN1)(C)C)C1=CC=CC=C1 | C18H17ClN4OS
